US07855218B2
(5R)-5-(4-{[(2-fluorophenyl)methyl]oxy}phenyl)-N-methyl-L-prolinamide hydrochloride (E31)
To a solution of 1,1-dimethylethyl (2R,5S)-2-(4-{[(2-fluorophenyl)methyl]oxy}phenyl)-5-[(methylamino)carbonyl]-1-pyrrolidinecarboxylate (D96, 40 mg, 0.09 mmol) in ethyl acetate (0.9 ml) and methanol (0.1 ml) at 0° C. was added AcCl (40 μl, 0.56 mmol) and the mixture was stirred for two hours at room temperature. The solvent was removed under nitrogen flow and the residue triturated with Et2O. The solvent was removed to afford the title compound as a white solid (28 mg, 85%). Rt (HPLC): 3.74 min; MS: (ES/+) m/z: 329-[MH+] C19H21FN2O2 requires 328; 1H NMR (500 MHz, DMSO-d6) δ (ppm): 10.03-10.78 (br.s, 1H); 8.56 (q, 1H); 7.95-8.46 (br.s, 1H); 7.55 (dt, 1H); 7.49 (d, 2H); 7.39-7.46 (m, 1H); 7.20-7.29 (m, 2H); 7.09 (d, 2H); 5.16 (s, 2H); 4.58 (dd, 1H); 4.28 (dd, 1H); 2.70 (d, 3H); 2.21-2.37 (m, 2H); 1.98-2.17 (m, 2H).

reactant | 1,1-dimethylethyl (2R,5S)-2-(4-{[(2-fluorophenyl)methyl]oxy}phenyl)-5-[(methylamino)carbonyl]-1-pyrrolidinecarboxylate | 0.09 mmol, 40 mg | FC1=C(C=CC=C1)COC1=CC=C(C=C1)[C@@H]1N([C@@H](CC1)C(=O)NC)C(=O)OC(C)(C)C | C24H29FN2O4
reactant | AcCl | 0.56 mmol, 40 μl | C(=O)(C)Cl | C2H3ClO
solvent | ethyl acetate | 0.9 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.1 ml | CO | CH4O
product | (5R)-5-(4-{[(2-fluorophenyl)methyl]oxy}phenyl)-N-methyl-L-prolinamide hydrochloride | 28 mg, 85% | Cl.FC1=C(C=CC=C1)COC1=CC=C(C=C1)[C@H]1CC[C@H](N1)C(=O)NC | InChI=1S/C19H21FN2O2.ClH/c1-21-19(23)18-11-10-17(22-18)13-6-8-15(9-7-13)24-12-14-4-2-3-5-16(14)20;/h2-9,17-18,22H,10-12H2,1H3,(H,21,23);1H/t17-,18+;/m1./s1
